US08133889B2
Step A: 1-(4-Chloro-phenyl)-2-hydroxy-ethanone
A mixture of 2-bromo-1-(4-chloro-phenyl)-ethanone (100 mmoles) and potassium formate (130 mmoles) in MeOH (100 ml) is stirred at reflux for 3 hours. The reaction mixture is poured onto crushed ice. The solid formed is filtered off, washed with cold MeOH and then dried in vacuo to yield the title product, which is used directly in the next Step.

reactant | 2-bromo-1-(4-chloro-phenyl)-ethanone | 100 mmoles | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | potassium formate | 130 mmoles | C(=O)[O-].[K+]
solvent | MeOH | 100 ml | CO | CH4O
product | 1-(4-Chloro-phenyl)-2-hydroxy-ethanone | ClC1=CC=C(C=C1)C(CO)=O | C8H7ClO2
